US08202881B2
A round bottom flask charged with 4-amino-N,N-dicyclopropyl-6-ethyl-1-methyl-1,6-dihydroimidazo[4,5-d]pyrrolo[2,3-b]pyridine-7-carboxamide (134.4 mg, 0.397 mmol) under an atmosphere of nitrogen was treated with dibromomethane (397 μL). Isoamyl nitrate (107 μL, 0.794 mmol) was added and the reaction mixture was heated at 60° C. 3.5 h and cooled to rt. The reaction mixture was diluted with ethyl acetate and washed with saturated aqueous sodium bicarbonate. The organics were dired over anhydrous sodium sulfate, filtered and concentrated in vacuo. 4-Bromo-N,N-dicyclopropyl-6-ethyl-1-methyl-1,6-dihydroimidazo[4,5-d]pyrrolo[2,3-b]pyridine-7-carboxamide (0.156 g, 0.388 mmol, 98% yield) was isolated as a brown glassy solid. The product was used immediately in the next reaction.

reactant | 4-amino-N,N-dicyclopropyl-6-ethyl-1-methyl-1,6-dihydroimidazo[4,5-d]pyrrolo[2,3-b]pyridine-7-carboxamide | 0.397 mmol, 134.4 mg | NC1=C2C(=C3C(=N1)N(C(=C3)C(=O)N(C3CC3)C3CC3)CC)N(C=N2)C | C18H22N6O
reactant | dibromomethane | 397 μL | BrCBr | CH2Br2
reactant | Isoamyl nitrate | 0.794 mmol, 107 μL | [N+](=O)(OCCC(C)C)[O-] | C5H11NO3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Bromo-N,N-dicyclopropyl-6-ethyl-1-methyl-1,6-dihydroimidazo[4,5-d]pyrrolo[2,3-b]pyridine-7-carboxamide | 0.388 mmol, 0.156 g, 98% yield | BrC1=C2C(=C3C(=N1)N(C(=C3)C(=O)N(C3CC3)C3CC3)CC)N(C=N2)C | C18H20BrN5O
